US06403610B1
A mixture of 0.3 g of methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclohexylthio)ethyl]piperidine-3-acetate in 8 cm3 of dioxane in the presence of 0.5 cm3 of 5N aqueous sodium hydroxide solution was heated with stirring at a temperature in the region of 60° C. for 20 hours. After cooling to a temperature in the region of 20° C., the reaction mixture was evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. A foam with a yellow color was obtained, which product was purified by chromatography at atmospheric pressure on a column of silica gel (particle size 20-45 μm; diameter 1.6 cm; silica volume 40 cm3), elution was carried out with a chloroform/methanol/28% aqueous ammonia (12/3/0.5 by volume) mixture, and first a fraction of 125 cm3 and then approximately 10-cm3 fractions were collected. Fractions 3 to 7 were combined and then evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 0.27 g of a lacquer was obtained, which product was taken up in 5 cm3 of dioxane, 11 cm3 of 0.1N aqueous hydrochloric acid and 14 cm3 of distilled water. The dioxane was evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. and then the residual solution was lyophilized. 0.29 g of (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclohexylthio)-ethyl]piperidine-3-acetic acid dihydrochloride was obtained in the form of a lyophilizate with a white color.

reactant | methyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclohexylthio)ethyl]piperidine-3-acetate | 0.3 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CCSC1CCCCC1)CC(=O)OC | C29H42N2O3S
reactant | sodium hydroxide | 5N, 0.5 cm3 | [OH-].[Na+]
reactant | hydrochloric acid | 0.1N, 11 cm3 | Cl | ClH
reactant | water | 14 cm3 | O | H2O
solvent | dioxane | 8 cm3 | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 cm3 | O1CCOCC1 | C4H8O2
product | (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclohexylthio)-ethyl]piperidine-3-acetic acid dihydrochloride | 0.29 g | Cl.Cl.COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CCSC1CCCCC1)CC(=O)O | InChI=1S/C28H40N2O3S.2ClH/c1-33-24-10-11-27-26(19-24)22(12-14-29-27)7-5-6-21-13-15-30(20-23(21)18-28(31)32)16-17-34-25-8-3-2-4-9-25;;/h10-12,14,19,21,23,25H,2-9,13,15-18,20H2,1H3,(H,31,32);2*1H/t21-,23+;;/m1../s1
